US07414050B2
b) 4-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester
To a solution of 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester (0.20 g, 0.74 mmol)(prepared in the previous step) in 2 mL of CH3CN was added NBS (0.13 g, 0.74 mmol) and the mixture heated to 60° C. for 2 h. The mixture was concentrated and the title compound purified by elution from a 20-g SPE column with 20% EtOAc/hexanes to give 0.10 g (39%) of a colorless oil. Mass spectrum (ESI, m/z): Calcd. for C12H21BrN2O3Si, 349.0 (M+H). found 348.7.

reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester | 0.74 mmol, 0.20 g | C(C)OC(=O)C=1N(C=CN1)COCC[Si](C)(C)C | C12H22N2O3Si
reactant | NBS | 0.74 mmol, 0.13 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 4-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester | 0.10 g, 39% | C(C)OC(=O)C=1N(C=C(N1)Br)COCC[Si](C)(C)C | C12H21BrN2O3Si
